US07129232B2
To a suspension of phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (711 mg) and tert-butyl 3-amino-1-pyrrolidinecarboxylate (372 mg) in methylenechloride (15 ml) was added N-ethyldiisopropylamine (0.51 ml), and the mixture was stirred under reflux for 17 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 10% methanol/methylenechloride to give tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate (511 mg) as a solid.

reactant | phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 711 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C30H26N4O2
reactant | tert-butyl 3-amino-1-pyrrolidinecarboxylate | 372 mg | NC1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N-ethyldiisopropylamine | 0.51 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylenechloride | 15 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate | 511 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC1CN(CC1)C(=O)OC(C)(C)C | C33H38N6O3
